US04791109
3 g of N-(2-hydroxyphenyl)-1H-indol-4-carboxamide in 50 ml of benzene, 25 ml of acetonitrile and 50 ml of a 5N aqueous solution of sodium hydroxide were heated to 60° C. for 3 hours with stirring under an inert atmosphere with 0.4 g of 2-tetrabutylammonium hydrogenosulfate and 2.2 g of 2-piperidino-1-chloroethane. After cooling, decanting, extracting with ethyl acetate and purifying by chromatography over silica (eluent: ethyl acetate--triethylamine, 9-1), 3.6 g of N-[2-[2-(1-piperidinyl)ethoxy]phenyl]-1H-indol-4-carboxamide were obtained.

reactant | N-(2-hydroxyphenyl)-1H-indol-4-carboxamide | 3 g | OC1=C(C=CC=C1)NC(=O)C=1C=2C=CNC2C=CC1 | C15H12N2O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2-piperidino-1-chloroethane | 2.2 g | N1(CCCCC1)CCCl | C7H14ClN
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | N-[2-[2-(1-piperidinyl)ethoxy]phenyl]-1H-indol-4-carboxamide | 3.6 g | N1(CCCCC1)CCOC1=C(C=CC=C1)NC(=O)C=1C=2C=CNC2C=CC1 | C22H25N3O2
